US07429609B2
(3-Fluoropyridin-4-yl)-(naphthalen-2-yl)-methanol
Using 5.2 mL of 3-fluoropyridine and 10.2 g of 2-naphthaldehyde as starting materials, 17.0 g of the title compound was obtained as a colorless powder in the same manner as described in Production example 18.

reactant | 3-fluoropyridine | 5.2 mL | FC=1C=NC=CC1 | C5H4FN
reactant | 2-naphthaldehyde | 10.2 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
product | (3-Fluoropyridin-4-yl)-(naphthalen-2-yl)-methanol | 17.0 g | FC=1C=NC=CC1C(O)C1=CC2=CC=CC=C2C=C1 | C16H12FNO
